US05698692
(a) 6-ethoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine
To the thioformamide this obtained was added 3-chloro-1-ethoxycarbonylpiperidin-4-one (5.141 g, 25 mmole) in ethanol (100 ml) prepared according to the method described in Tetrahedron, 39, 3767 (1983)and heated at reflux in the presence of Molecular Sieves 4A for 15 hours. The reaction mixture was cooled to room temperature. After a saturated aqueous sodium hydrogen carbonate solution was added to the mixture under ice-cooling, ethanol was evaporated under reduced pressure. The reaction mixture was extracted with chloroform, washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 6.175 g of a crude product. The product was purified by column chromatography on silica gel (C-200=150 g, eluent: CHCl3) to give 3.213 g of the title compound as a clear pale yellow oily product (yield, 60.5%).

reactant | thioformamide | C(=S)N | CH3NS
reactant | 3-chloro-1-ethoxycarbonylpiperidin-4-one | 25 mmole, 5.141 g | ClC1CN(CCC1=O)C(=O)OCC | C8H12ClNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 3.213 g | C(C)OC(=O)C1CC2=C(CN1)SC=N2 | C9H12N2O2S
